US04473575
A solution of 3-(S)-t-butyloxycarbonylamino-1-carboxymethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one (5 g) in ethanol (100 ml) was hydrogenated at 45 psi using 5% rhodium on carbon (2 g) as catalyst, until uptake ceased. The catalyst was filtered off (celite) and the solvent removed under pressure to give 3-(S)-t-butyloxycarbonylamino-1-carboxymethyl-2,3,4,5,5a,6,7,8,9,9a-decahydro-1H-[1]benzazepin-2-one which was used without further purification for the next synthetic step.

reactant | 3-(S)-t-butyloxycarbonylamino-1-carboxymethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 5 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N(C2=C(CC1)C=CC=C2)CC(=O)O)=O | C17H22N2O5
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | rhodium on carbon | 2 g | [Rh] | Rh
product | 3-(S)-t-butyloxycarbonylamino-1-carboxymethyl-2,3,4,5,5a,6,7,8,9,9a-decahydro-1H-[1]benzazepin-2-one | C(C)(C)(C)OC(=O)N[C@@H]1C(N(C2C(CC1)CCCC2)CC(=O)O)=O | C17H28N2O5
